US07569536B2
Isonicotinoyl chloride hydrochloride (705 mg, 3.96 mmol, commercially available product) and triethylamine (823 μl, 5.94 mmol) were sequentially added at 0° C. to a dichloromethane (10 ml) solution of 1-[2-amino-4-(trifluoromethyl)phenyl]pyrrolidine (516 mg, 2.24 mmol), obtained as described in Referential Example 3-2. The resulting mixture was warmed to room temperature and stirred for five hours. Water was added to the mixture, and the resulting mixture was extracted three times with dichloromethane. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (25 g, hexane/ethyl acetate=1/2). Thus, N-[2-(1-pyrrolidinyl)-5-(trifluoromethyl)phenyl]isonicotinamide (GIF-0617) (734 mg, 97.8%) was yielded as a colorless solid.

reactant | Isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 5.94 mmol, 823 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 1-[2-amino-4-(trifluoromethyl)phenyl]pyrrolidine | 2.24 mmol, 516 mg | NC1=C(C=CC(=C1)C(F)(F)F)N1CCCC1 | C11H13F3N2
solvent | Water | O | H2O
product | N-[2-(1-pyrrolidinyl)-5-(trifluoromethyl)phenyl]isonicotinamide | 734 mg, 97.8% | N1(CCCC1)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C17H16F3N3O
